US05304560
A mixture of 2-[N-{4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl}-N-ethoxycarbonylamino]-6nitrobenzoic acid (680 mg) and phosphorus tribromide (0.7 ml) in methylene dichloride (30 ml) was refluxed for 3 hours. Excess of phosphorus tribromide was quenched with ethanol (2 ml) on an ice-bath. Then appeared crystalline materials were collected, and washed with ethanol to give 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-5-nitro-1,2-dihydro-4H-3,1-benzoxazine-2,4-dione hydrobromide 414 mg).

reactant | 2-[N-{4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl}-N-ethoxycarbonylamino]-6nitrobenzoic acid | 680 mg | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN(C(=O)OCC)C1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C25H29N3O6
reactant | phosphorus tribromide | 0.7 ml | P(Br)(Br)Br | Br3P
solvent | methylene dichloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-5-nitro-1,2-dihydro-4H-3,1-benzoxazine-2,4-dione hydrobromide | 414 mg | Br.C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C(OC(C2=C1C=CC=C2[N+](=O)[O-])=O)=O | InChI=1S/C23H23N3O5.BrH/c27-22-21-19(9-6-10-20(21)26(29)30)25(23(28)31-22)14-5-4-13-24-15-11-18(12-16-24)17-7-2-1-3-8-17;/h1-3,6-11H,4-5,12-16H2;1H
